US06492416B1
To a stirred solution of 2,2-dimethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone (10 g) in 200 ml dichloromethane at 0° C., was added slowly dropwise 4.8 g of m-chloroperoxybenzoic acid (m-CPBA) dissolved in 50 ml dichloromethane. After the reaction mixture was stirred at 0° C. for another two hours, the reaction solution was concentrated in vacuo. The resulting residue was extracted with water and dichloromethane (50 ml×3), followed by washing with aqueous sodium carbonate. The organic layer was concentrated and the crude product was purified by column chromatography (hexane/ethylacetate) to obtain 7.5 g of 2,2-dimethyl-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone as a solid. mp: 108-109° C. NMR: δ1.51 (s, 6H), 2.78 (s, 3H), 6.06 (s, 1H), 7.78 (d, J=8.4 Hz, 2H), 8.02 (d, J=8.4 Hz, 2H). IR (cmu−1): 2925, 1697, 1603, 1558, 1173, 1087, 1049.

reactant | 2,2-dimethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone | 10 g | CC1(OC(=CC1=O)C1=CC=C(C=C1)SC)C | C13H14O2S
reactant | m-chloroperoxybenzoic acid | 4.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,2-dimethyl-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone | 7.5 g | CC1(OC(=CC1=O)C1=CC=C(C=C1)S(=O)C)C | C13H14O3S
